US07157455B2
The same procedure as described in Example 47 was used, starting from 4-amino-2-ethylsulfanylpyrimidine-5-carboxylic acid, Example 1, and 2-bromo-4,6-difluoroanisole (Astatech), to give (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2,6-difluoro-3-methoxy-phenyl)-methanone as a white solid. MS (M+H)+, 326.

reactant | 4-amino-2-ethylsulfanylpyrimidine-5-carboxylic acid | NC1=NC(=NC=C1C(=O)O)SCC | C7H9N3O2S
reactant | 2-bromo-4,6-difluoroanisole | BrC1=C(C(=CC(=C1)F)F)OC | C7H5BrF2O
product | (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2,6-difluoro-3-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C(=CC=C1F)OC)F)SCC | C14H13F2N3O2S
